US07138414B2
a) 3-(3-methoxy-4-nitrophenyl)-5-methyl-4H-[1,2,4]triazole
The mixture consisting of 590 mg g of 3-methoxy-4-nitrobenzoic hydrazide, 6 ml of pyridine and 210 mg of thioacetamide was heated to 95° C. for 2 hours. After cooling, the volatile fractions were removed under reduced pressure at 40° C. and the residue was subjected to column chromatography purification (silica gel, solvent: 95:5 dichloromethane:methanol)

reactant | 3-methoxy-4-nitrobenzoic hydrazide | COC=1C=C(C(=O)NN)C=CC1[N+](=O)[O-] | C8H9N3O4
reactant | thioacetamide | 210 mg | C(C)(=S)N | C2H5NS
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-methoxy-4-nitrophenyl)-5-methyl-4H-[1,2,4]triazole | COC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(N1)C | C10H10N4O3
